US04497952
(±)-2-(p-chlorobenzoyl)-4-oxo-9,10-dimethyoxy-1,2,3,6,7,11b-hexahydro-4H-pyrazino[2,1-a]isoquinoline (I; R1 =p-chlorobenzoyl, R2 =R3 =OCH3)
To a solution of 2.62 g of (±)-4-oxo-9,10-dimethoxy-1,2,3,6,7,11b-hexahydro-4H-pyrazino[2,1-a]isoquinoline (I; R1 =H, R2 =R2 =OCH3) in 10 ml of dichloromethane was added 2 ml of triethylamine, and then 1.9 g of p-chlorobenzoyl chloride was slowly added 0°~5° C. The resultant mixture was stirred at 10° C. for 1.5 hours. To the reaction mixture was added water, and the organic layer was seperated. The organic extract was concentrated, and then the residue was triturated with ethyl acetate-ether to obtain 4.0 g (~100%) of the product, m.p. 139°~140° C.

reactant | (±)-4-oxo-9,10-dimethoxy-1,2,3,6,7,11b-hexahydro-4H-pyrazino[2,1-a]isoquinoline | 2.62 g | O=C1CNCC2N1CCC1=CC(=C(C=C21)OC)OC | C14H18N2O3
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | p-chlorobenzoyl chloride | 1.9 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (±)-2-(p-chlorobenzoyl)-4-oxo-9,10-dimethyoxy-1,2,3,6,7,11b-hexahydro-4H-pyrazino[2,1-a]isoquinoline | 4.0 g, ~100% | ClC1=CC=C(C(=O)N2CC3N(CCC4=CC(=C(C=C34)OC)OC)C(C2)=O)C=C1 | C21H21ClN2O4
